US08168651B2
2-amino-3-bromobenzoic acid (1.00 g) was mixed with methanol (10 ml) and concentrated sulfuric acid (1 ml). The mixture was stirred at reflux for 31 hours. The solvent were evaporated, and saturated aqueous sodium bicarbonate was carefully added. The solid was extracted with CH2Cl2 (3×). The combined extracts were dried over Na2SO4 and the solvents removed in vacuo to afford methyl 2-amino-3-bromobenzoate as a semi-crystalline solid (976 mg, 91% yield). LCMS (ES): >85% pure, m/z 230 [M+1]+.

reactant | 2-amino-3-bromobenzoic acid | 1.00 g | NC1=C(C(=O)O)C=CC=C1Br | C7H6BrNO2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 10 ml | CO | CH4O
product | methyl 2-amino-3-bromobenzoate | NC1=C(C(=O)OC)C=CC=C1Br | C8H8BrNO2
